US09107916B2
B. 2-[3-[(2-chlorophenyl)methyl]-5-hydroxypyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared in 39% yield from 2-hydrazinylpyridine-4-carbonitrile (PREPARATION 2) and ethyl 4-(2-chlorophenyl)-3-oxobutanoate according to the procedure for the preparation of Example 158, part A.

reactant | 2-hydrazinylpyridine-4-carbonitrile | N(N)C1=NC=CC(=C1)C#N | C6H6N4
reactant | ethyl 4-(2-chlorophenyl)-3-oxobutanoate | ClC1=C(C=CC=C1)CC(CC(=O)OCC)=O | C12H13ClO3
product | 2-[3-[(2-chlorophenyl)methyl]-5-hydroxypyrazol-1-yl]pyridine-4-carbonitrile | 39% yield | ClC1=C(C=CC=C1)CC1=NN(C(=C1)O)C1=NC=CC(=C1)C#N | C16H11ClN4O
